US06300353B1
To a solution of (2R,3R)-2-(2,5-difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-2,3-butanediol (53.0 g, 197 mmol) and Et3N (54.8 mL, 394 mmol) in CH2Cl2-EtOAc (1:3, 400 mL) cooled in an ice-bath was added MsCl (17.5 mL, 227 mmol) dropwise over a period of 15 min. After stirring for 30 min at 0° C., the mixture was warmed to room temperature and quenched with water (200 mL). EtOAc (200 mL) was added and the organic layer was washed with water and brine, dried over MgSO4 and evaporated under reduced pressure. The obtaining residue was dissolved in MeOH (500 mL) and cooled in an ice-bath. A solution of NaOMe (41.8 g, 28% in MeOH, 217 mmol) was added dropwise and after the completion of the addition, the mixture was stirred for 15 min at 0° C. MeOH was evaporated under reduced pressure and the resulting residue was dissolved in EtOAc (500 mL). The EtOAc solution was washed with water and brine, dried over MgSO4 and evaporated under reduced pressure. The obtaining solid was recrystalized from t-BuOMe-hexane to give pure (2R,3S)-2-(2,5-Difluorophenyl)-3-methyl-2-[(1H-1,2,4-triazol-1-yl)-methyl]-oxirane (43.5 g, 88%).

reactant | (2R,3R)-2-(2,5-difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-2,3-butanediol | 197 mmol, 53.0 g | FC1=C(C=C(C=C1)F)[C@@](CN1N=CN=C1)([C@@H](C)O)O | C12H13F2N3O2
reactant | Et3N | 394 mmol, 54.8 mL | CCN(CC)CC | C6H15N
reactant | MsCl | 227 mmol, 17.5 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaOMe | 217 mmol, 41.8 g | C[O-].[Na+]
solvent | CH2Cl2 EtOAc | 400 mL | C(Cl)Cl.CCOC(=O)C
product | (2R,3S)-2-(2,5-Difluorophenyl)-3-methyl-2-[(1H-1,2,4-triazol-1-yl)-methyl]-oxirane | 43.5 g, 88% | FC1=C(C=C(C=C1)F)[C@@]1(O[C@H]1C)CN1N=CN=C1 | C12H11F2N3O
